US07470723B2
To a solution of 4-bromo-2-ethoxy-1-methoxy-benzene (1.7 g, 7.4 mmol) in THF (20 mL) was added a solution of n-butyllitium in hexane (2.8 mL, 2.5 N, 7.0 mmol) at −78° C. and kept for 20 min. To the mixture was added 4-methoxy-3-methyl-benzaldehyde (1.0 g, 90% pure, 6.0 mmol) at −78° C. After 18 h, water (30 mL) was added to the mixture, and the cold bath was removed. The mixture was stirred at room temperature for 20 min. The mixture was extracted with ethyl acetate (2×50 mL). The combined organic layers was washed with HCl (0.5 N, 50 mL), sodium hydrogen carbonate (50 mL, sat), brine (50 mL) and dried over magnesium sulfate. Removal of solvent gave (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanol as a solid (2.0 g, 100% crude yield). The sample was used in the next step without further purification.

reactant | 4-bromo-2-ethoxy-1-methoxy-benzene | 7.4 mmol, 1.7 g | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | n-butyllitium | C(CCC)[Li]
reactant | hexane | 7.0 mmol, 2.5 N, 2.8 mL | CCCCCC | C6H14
reactant | 4-methoxy-3-methyl-benzaldehyde | 6.0 mmol, 1.0 g | COC1=C(C=C(C=O)C=C1)C | C9H10O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanol | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC(=C(C=C1)OC)C | C18H22O4
